US06537433B1
Methods for fabricating frits according to the present invention are well known. Briefly, one exemplary preferred frit fabrication procedure is as follows. Dissolve 1 gram of Plexiglass in 250 ml of chloroform at room temperature to form a Plexiglass/chloroform mixture. Next, mix 20 grams of 150 mesh (99.5%) copper basis copper particles (Alfa AESAR, stock #10160) with 2 ml of the plexiglass/chloroform mixture to form a particle suspension. The metal particles should be approximately 2-10 μm in diameter. Mixing should be performed at room temperature by swirling the suspension until it becomes evenly mixed for approximately 5 minutes. To form the frit, aspirate a 2-5 mm length of the mixture into a micropipet (Micropipetts calibrated color coded disposable, VWR Scientific, cat #53432-921, Size 100 ul ) using a conventional pipette bulb. Allow the aspirated suspension to dry partially for approximately 5 minutes and then push the suspension farther into the micropipette using a rigid wire or rod. Finally, allow the frit to dry for an additional 30 minutes at room temperature. The frit may then be used in situ or be mechanically removed from the micropipette.

reactant | Plexiglass | 1 gram | CC(=C)C(=O)OC | C5H8O2
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | Plexiglass chloroform | CC(=C)C(=O)OC.C(Cl)(Cl)Cl | InChI=1S/C5H8O2.CHCl3/c1-4(2)5(6)7-3;2-1(3)4/h1H2,2-3H3;1H
